US07491735B2
4-Nitrophthalimide (8.0 g, 41.6 mmol) in THF (10 mL) was reduced with BH3-THF (1.0M in THF, 111 mL, 111 mmol) at reflux and treated with 6N HCl to afford 5-nitro-2,3-dihydro-1H-isoindole (1.89 g, 28%) after work-up and purification.

reactant | 4-Nitrophthalimide | 41.6 mmol, 8.0 g | [N+](=O)([O-])C=1C=C2C(C(=O)NC2=O)=CC1 | C8H4N2O4
reactant | BH3-THF | 111 mmol, 1.0M, 111 mL | B.C1CCOC1
reactant | HCl | 6N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-nitro-2,3-dihydro-1H-isoindole | 1.89 g, 28% | [N+](=O)([O-])C=1C=C2CNCC2=CC1 | C8H8N2O2
